US06313122B1
Preparation of N-(4-Methoxybenzoyl)-2-[1-(ethoxycarbonylmethyl)-1,3-dihydro-3-oxo-2H-benz[f]isoindol-2-yl]-benzeneamine
A solution of N-(4-methoxybenzoyl)-2-(1-ethoxy-1,3-dihydro-3-oxo-2H-benz[f]isoindol-2-yl)benzeneamine (0.75 g, 1.7 mmol) and 1-ethoxy-1-trimethylsilyloxyethylene (0.80 g, 5.0 mmol) in methylene chloride at −78° C. was treated dropwise with boron triflouride etherate (0.23 mL, 1.8 mmol). Upon complete addition, the cooling bath was removed and the mixture was allowed to warm for 0.5 h. The mixture was poured into a mixture of ethyl acetate and aqueous saturated sodium bicarbonate solution. The organic layer was washed with water, saturated sodium chloride solution, dried (potassium carbonate), and filtered. Concentration and purification of the residue by radial chromatography (silica gel, hexanes/ethyl acetate) yielded 428 mg (44%) of the title compound. An analytical sample was obtained by recrystallization from ethyl acetate/hexanes.

reactant | N-(4-methoxybenzoyl)-2-(1-ethoxy-1,3-dihydro-3-oxo-2H-benz[f]isoindol-2-yl)benzeneamine | 1.7 mmol, 0.75 g | COC1=CC=C(C(=O)NC2=C(C=CC=C2)N2C(C=3C=C4C(=CC3C2OCC)C=CC=C4)=O)C=C1 | C28H24N2O4
reactant | 1-ethoxy-1-trimethylsilyloxyethylene | 5.0 mmol, 0.80 g | C(C)OC(=C)O[Si](C)(C)C | C7H16O2Si
reactant | boron triflouride etherate | 1.8 mmol, 0.23 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxybenzoyl)-2-[1-(ethoxycarbonylmethyl)-1,3-dihydro-3-oxo-2H-benz[f]isoindol-2-yl]-benzeneamine | 428 mg, 44% | COC1=CC=C(C(=O)NC2=C(C=CC=C2)N2C(C=3C=C4C(=CC3C2CC(=O)OCC)C=CC=C4)=O)C=C1 | C30H26N2O5
